US04342692
D. Ethyl 4-(4-Methoxybenzyl)acetoacetate
Into a 3 l. 3-necked r.b. flask equipped with a mechanical stirrer, thermometer, dropping funnel, and nitrogen gas inlet was placed 24 g. (0.5 mole) of 50% NaH prewashed with hexane, and 1000 ml. of dry tetrahydrofuran. 65 g. (0.5 mole) of ethyl acetoacetate was then added dropwise at -10° to 0° C. using a dry ice-acetone bath. After addition of ethyl acetoacetate was finished, the mixture was gradually warmed up to 10° C. in the course of 15 minutes and then 240 ml. (0.528 mole) of 2.2 M n-butyllithium was added dropwise maintaining temperature below -40° to -20° C. After the mixture was stirred at -10° for 15 minutes, 100.5 g. (0.5 mole) of 4-methoxybenzyl bromide was added dropwise over a period of 45 minutes at -10° C. The reaction mixture was gradually warmed up to room temperature and stirred for an additional hour, and then cooled to -20° C. 5 N HCl was then carefully added until the solution was slightly acidic.

reactant | NaH | 0.5 mole | [H-].[Na+]
reactant | ethyl acetoacetate | 0.5 mole | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | n-butyllithium | 0.528 mole, 2.2 M | C(CCC)[Li]
reactant | 4-methoxybenzyl bromide | 0.5 mole | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | HCl | 5 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Ethyl 4-(4-Methoxybenzyl)acetoacetate | COC1=CC=C(CCC(CC(=O)OCC)=O)C=C1 | C14H18O4
